US20010036946A1
b) Hexahydro-1-methyl-4-(4-piperidinyl)-1H-1 4-diazepine
Prepared analogously to Example A3f) from hexahydro-1-methyl-4-[1-(phenylmethyl)-4-piperidinyl]-1H-1,4-diazepine by hydrogenolysis, but using Pearlman's catalyst instead of palladium/charcoal, in a quantitative yield. Colourless viscous oil. MS: M+=197

reactant | hexahydro-1-methyl-4-[1-(phenylmethyl)-4-piperidinyl]-1H-1,4-diazepine | CN1CCN(CCC1)C1CCN(CC1)CC1=CC=CC=C1 | C18H29N3
catalyst | Pearlman's catalyst | [OH-].[OH-].[Pd+2]
product | Hexahydro-1-methyl-4-(4-piperidinyl)-1H-1 4-diazepine | quantitative yield | CN1CCN(CCC1)C1CCNCC1 | C11H23N3
